US07309703B2
B. 1-{3-[4-(2-Cyano-phenyl)-piperazin-1-yl]-2-hydroxy-propyl}-3-(4-iodo-phenyl)-1,4,6,7-tetrahydro-pyrazolo[4,3-c]pyridine-5-carboxylic acid amide
Diisopropylethylamine (0.531 mL, 3.05 mmol), DMAP (5 mg), and trimethylsilyl isocyanate (0.413 mL, 3.05 mmol) were added to a solution of 2-(4-{2-hydroxy-3-[3-(4-iodo-phenyl)-4,5,6,7-tetrahydro-pyrazolo[4,3-c]pyridin-1-yl]-propyl}-piperazin-1-yl)-benzonitrile in pyridine (3 mL) and CH2Cl2 (6 mL). The reaction mixture was stirred for 20 h, then partitioned between aqueous NaHCO3 and CH2Cl2. The CH2Cl2 layer was washed with brine, dried (Na2SO4), and concentrated. The resulting product was dissolved in CH2Cl2 (5 mL) and treated with 21 wt % sodium ethoxide in EtOH (0.5 mL) for 3 h. The reaction mixture was washed with brine, dried (Na2SO4), and concentrated. Purification by column chromatography (silica, 0-10% MeOH/CH2Cl2) afforded 290 mg (78%) of the title compound. HPLC (reverse phase conditions), tR=4.21 min. MS (electrospray): m/z 612.2 (612.5, calculated for C27H30IN7O2, M++H). 1H NMR (400 MHz, CDCl3): 7.73 (d, J=8.6 Hz, 2H), 7.57 (dd, J=7.6, 1.6 Hz, 1H), 7.50 (t, J=7.8 Hz, 1H), 7.36 (d, J=8.6 Hz, 2H), 7.05 (t, J=7.6 Hz, 1H), 7.00 (d, J=8.4 Hz, 1H), 4.64 (br s, 2H), 4.57 (br s, 2H), 4.30 (br s, 1H), 4.20 (dd, J=14.1, 3.3 Hz, 1H), 4.06 (dd, J=14.1, 6.3 Hz, 1H), 3.82-3.65 (m, 2H), 3.29-3.20 (m, 4H), 3.04-2.80 (m, 6H), 2.68 (br s, 2H).

reactant | Diisopropylethylamine | 3.05 mmol, 0.531 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | trimethylsilyl isocyanate | 3.05 mmol, 0.413 mL | C[Si](C)(C)N=C=O | C4H9NOSi
reactant | 2-(4-{2-hydroxy-3-[3-(4-iodo-phenyl)-4,5,6,7-tetrahydro-pyrazolo[4,3-c]pyridin-1-yl]-propyl}-piperazin-1-yl)-benzonitrile | OC(CN1CCN(CC1)C1=C(C#N)C=CC=C1)CN1N=C(C=2CNCCC21)C2=CC=C(C=C2)I | C26H29IN6O
catalyst | DMAP | 5 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | pyridine | 3 mL | N1=CC=CC=C1 | C5H5N
solvent | CH2Cl2 | 6 mL | C(Cl)Cl | CH2Cl2
product | 1-{3-[4-(2-Cyano-phenyl)-piperazin-1-yl]-2-hydroxy-propyl}-3-(4-iodo-phenyl)-1,4,6,7-tetrahydro-pyrazolo[4,3-c]pyridine-5-carboxylic acid amide | 290 mg, 78% | C(#N)C1=C(C=CC=C1)N1CCN(CC1)CC(CN1N=C(C=2CN(CCC21)C(=O)N)C2=CC=C(C=C2)I)O | C27H30IN7O2
